### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Clique): the clique number of the complete graph

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -748,6 +748,34 @@ lemma exists_isNClique_cliqueNum : ∃ s, G.IsNClique G.cliqueNum s := by
   · exact Nat.sSup_mem ⟨0, by simp⟩ h
   · simp [cliqueNum, h]
 
+variable (G) in
+@[simp]
+theorem cliqueNum_of_isEmpty [IsEmpty α] : G.cliqueNum = 0 :=
+  Nat.le_zero.mp <| csSup_le' fun n ⟨s, h⟩ ↦ by simpa [s.eq_empty_of_isEmpty] using h.card_eq.symm
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Pretty minor, you decide which version you prefer

```suggestion
  Nat.le_zero.mp <| csSup_le' fun n ⟨s, h⟩ ↦ by simp [s.eq_empty_of_isEmpty, h.card_eq.symm]
```

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Thanks! Didn't notice that was possible

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 2]
```diff
@@ -748,6 +748,34 @@ lemma exists_isNClique_cliqueNum : ∃ s, G.IsNClique G.cliqueNum s := by
...
+
+variable (G) in
+theorem cliqueNum_le_enatCard : G.cliqueNum ≤ ENat.card α := by
+  cases finite_or_infinite α
+  · grw [ENat.card_eq_coe_natCard, Nat.cast_le, cliqueNum_le_natCard]
+  · simp
+
+variable (α) in
+@[simp]
+theorem cliqueNum_top : (⊤ : SimpleGraph α).cliqueNum = Nat.card α := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:768]: Perhaps we should also add that G.cliqueNum = Nat.card α iff G = top? (perhaps under some finiteness assumptions - I haven't thought about that!)

**Comment by b-mehta** [comment]
bors d+

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 2 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:768]: `[Finite G.edgeSet]` works, but it's a bit annoying, so #43096 shows it for `[Finite V]` for now :)

**Comment by SnirBroshi** [comment]
Thanks!

bors merge
